* Xschem-extracted hierarchy for A44_W5P29_UNIT_TRANS_DRIVER.
* Structural/sizing artifact only; not a performance or sign-off result.
.subckt A44_CAP_SWITCH VREFP VREFN CTRL CAP_BOTTOM VDD GND
*.iopin VREFP
*.iopin VREFN
*.ipin CTRL
*.opin CAP_BOTTOM
*.iopin VDD
*.iopin GND
XCAP_REFN_SWITCH_NMOS CAP_BOTTOM CTRL VREFN GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=18
XCAP_REFP_SWITCH_PMOS CAP_BOTTOM CTRL VREFP VDD pfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=18
.ends
.subckt A44_C1_SWITCH REF_N REF_P VDD GND UNIT_OUT CTRL
*.iopin REF_N
*.iopin REF_P
*.iopin VDD
*.iopin GND
*.ipin CTRL
*.opin UNIT_OUT
x1 REF_P REF_N CTRL V_BOT VDD GND A44_CAP_SWITCH
XC1 UNIT_OUT V_BOT cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=18
.ends
.subckt A44_C2_SWITCH REF_N REF_P VDD GND UNIT_OUT CTRL
*.iopin REF_N
*.iopin REF_P
*.iopin VDD
*.iopin GND
*.ipin CTRL
*.opin UNIT_OUT
x1 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x2 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
.ends
.subckt A44_C4_SWITCH REF_N REF_P VDD GND UNIT_OUT CTRL
*.iopin REF_N
*.iopin REF_P
*.iopin VDD
*.iopin GND
*.ipin CTRL
*.opin UNIT_OUT
x1 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x2 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x3 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x4 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
.ends
.subckt A44_C8_SWITCH REF_N REF_P VDD GND UNIT_OUT CTRL
*.iopin REF_N
*.iopin REF_P
*.iopin VDD
*.iopin GND
*.ipin CTRL
*.opin UNIT_OUT
x1 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x2 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x3 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x4 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x5 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x6 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x7 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x8 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
.ends
.subckt A44_C16_SWITCH REF_N REF_P VDD GND UNIT_OUT CTRL
*.iopin REF_N
*.iopin REF_P
*.iopin VDD
*.iopin GND
*.ipin CTRL
*.opin UNIT_OUT
x1 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x2 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x3 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x4 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x5 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x6 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x7 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x8 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x9 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x10 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x11 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x12 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x13 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x14 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x15 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x16 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
.ends
.subckt A44_C32_SWITCH REF_N REF_P VDD GND UNIT_OUT CTRL
*.iopin REF_N
*.iopin REF_P
*.iopin VDD
*.iopin GND
*.ipin CTRL
*.opin UNIT_OUT
x1 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x2 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x3 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x4 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x5 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x6 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x7 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x8 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x9 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x10 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x11 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x12 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x13 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x14 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x15 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x16 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x17 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x18 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x19 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x20 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x21 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x22 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x23 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x24 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x25 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x26 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x27 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x28 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x29 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x30 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x31 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x32 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
.ends
.subckt A44_C64_SWITCH REF_N REF_P VDD GND UNIT_OUT CTRL
*.iopin REF_N
*.iopin REF_P
*.iopin VDD
*.iopin GND
*.ipin CTRL
*.opin UNIT_OUT
x1 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x2 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x3 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x4 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x5 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x6 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x7 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x8 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x9 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x10 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x11 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x12 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x13 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x14 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x15 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x16 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x17 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x18 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x19 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x20 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x21 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x22 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x23 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x24 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x25 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x26 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x27 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x28 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x29 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x30 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x31 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x32 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x33 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x34 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x35 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x36 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x37 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x38 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x39 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x40 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x41 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x42 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x43 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x44 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x45 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x46 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x47 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x48 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x49 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x50 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x51 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x52 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x53 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x54 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x55 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x56 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x57 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x58 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x59 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x60 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x61 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x62 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x63 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
x64 REF_N REF_P VDD GND UNIT_OUT CTRL A44_C1_SWITCH
.ends
.subckt A44_CONVERSION_BUFFER CTRL_IN[1] CTRL_OUT[1] VDD GND CTRL_IN[2] CTRL_OUT[2] CTRL_OUT[3] CTRL_IN[3] CTRL_OUT[4] CTRL_IN[4]
+ CTRL_OUT[5] CTRL_IN[5] CTRL_OUT[6] CTRL_IN[6] CTRL_OUT[7] CTRL_IN[7]
*.ipin CTRL_IN[2]
*.opin CTRL_OUT[2]
*.iopin VDD
*.iopin GND
*.ipin CTRL_IN[1]
*.opin CTRL_OUT[1]
*.ipin CTRL_IN[4]
*.opin CTRL_OUT[4]
*.ipin CTRL_IN[3]
*.opin CTRL_OUT[3]
*.ipin CTRL_IN[6]
*.opin CTRL_OUT[6]
*.ipin CTRL_IN[5]
*.opin CTRL_OUT[5]
*.ipin CTRL_IN[7]
*.opin CTRL_OUT[7]
XDCTRL_CH2_INV1_NMOS net1 CTRL_IN[2] GND GND nfet_03v3 L=0.28u W=2.34u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XDCTRL_CH2_INV1_PMOS net1 CTRL_IN[2] VDD VDD pfet_03v3 L=0.28u W=4.67u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XDCTRL_CH2_INV2_NMOS CTRL_OUT[2] net1 GND GND nfet_03v3 L=0.28u W=6.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XDCTRL_CH2_INV2_PMOS CTRL_OUT[2] net1 VDD VDD pfet_03v3 L=0.28u W=12.44u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XDCTRL_CH1_INV1_NMOS net2 CTRL_IN[1] GND GND nfet_03v3 L=0.28u W=2.34u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XDCTRL_CH1_INV1_PMOS net2 CTRL_IN[1] VDD VDD pfet_03v3 L=0.28u W=4.67u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XDCTRL_CH1_INV2_NMOS CTRL_OUT[1] net2 GND GND nfet_03v3 L=0.28u W=6.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XDCTRL_CH1_INV2_PMOS CTRL_OUT[1] net2 VDD VDD pfet_03v3 L=0.28u W=12.44u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XDCTRL_CH4_INV1_NMOS net3 CTRL_IN[4] GND GND nfet_03v3 L=0.28u W=2.34u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XDCTRL_CH4_INV1_PMOS net3 CTRL_IN[4] VDD VDD pfet_03v3 L=0.28u W=4.67u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XDCTRL_CH4_INV2_NMOS CTRL_OUT[4] net3 GND GND nfet_03v3 L=0.28u W=6.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XDCTRL_CH4_INV2_PMOS CTRL_OUT[4] net3 VDD VDD pfet_03v3 L=0.28u W=12.44u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XDCTRL_CH3_INV1_NMOS net4 CTRL_IN[3] GND GND nfet_03v3 L=0.28u W=2.34u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XDCTRL_CH3_INV1_PMOS net4 CTRL_IN[3] VDD VDD pfet_03v3 L=0.28u W=4.67u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XDCTRL_CH3_INV2_NMOS CTRL_OUT[3] net4 GND GND nfet_03v3 L=0.28u W=6.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XDCTRL_CH3_INV2_PMOS CTRL_OUT[3] net4 VDD VDD pfet_03v3 L=0.28u W=12.44u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XDCTRL_CH6_INV1_NMOS net5 CTRL_IN[6] GND GND nfet_03v3 L=0.28u W=2.34u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XDCTRL_CH6_INV1_PMOS net5 CTRL_IN[6] VDD VDD pfet_03v3 L=0.28u W=4.67u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XDCTRL_CH6_INV2_NMOS CTRL_OUT[6] net5 GND GND nfet_03v3 L=0.28u W=6.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XDCTRL_CH6_INV2_PMOS CTRL_OUT[6] net5 VDD VDD pfet_03v3 L=0.28u W=12.44u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XDCTRL_CH5_INV1_NMOS net6 CTRL_IN[5] GND GND nfet_03v3 L=0.28u W=2.34u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XDCTRL_CH5_INV1_PMOS net6 CTRL_IN[5] VDD VDD pfet_03v3 L=0.28u W=4.67u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XDCTRL_CH5_INV2_NMOS CTRL_OUT[5] net6 GND GND nfet_03v3 L=0.28u W=6.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XDCTRL_CH5_INV2_PMOS CTRL_OUT[5] net6 VDD VDD pfet_03v3 L=0.28u W=12.44u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XDCTRL_CH7_INV1_NMOS net7 CTRL_IN[7] GND GND nfet_03v3 L=0.28u W=2.34u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XDCTRL_CH7_INV1_PMOS net7 CTRL_IN[7] VDD VDD pfet_03v3 L=0.28u W=4.67u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XDCTRL_CH7_INV2_NMOS CTRL_OUT[7] net7 GND GND nfet_03v3 L=0.28u W=6.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XDCTRL_CH7_INV2_PMOS CTRL_OUT[7] net7 VDD VDD pfet_03v3 L=0.28u W=12.44u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends
.subckt A44_SWITCH_TRANS_TG8 CLKS VDD GND VOUT VIN

*.iopin VDD
*.iopin GND
*.ipin VIN
*.ipin CLKS
*.opin VOUT
XTG_CLK_INV1_NMOS net1 CLKS GND GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XTG_CLK_INV1_PMOS net1 CLKS VDD VDD pfet_03v3 L=0.28u W=3.11u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XTG_CLK_INV2_NMOS net2 net1 GND GND nfet_03v3 L=0.28u W=2.34u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XTG_CLK_INV2_PMOS net2 net1 VDD VDD pfet_03v3 L=0.28u W=4.67u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XTG_CLK_INV3_NMOS net3 net2 GND GND nfet_03v3 L=0.28u W=3.11u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XTG_CLK_INV3_PMOS net3 net2 VDD VDD pfet_03v3 L=0.28u W=6.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XTG_CLK_INV4_NMOS N_CLK net3 GND GND nfet_03v3 L=0.28u W=4.67u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XTG_CLK_INV4_PMOS N_CLK net3 VDD VDD pfet_03v3 L=0.28u W=9.33u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XTG_PCLK_INV1_NMOS net4 CLKS GND GND nfet_03v3 L=0.28u W=1.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XTG_PCLK_INV1_PMOS net4 CLKS VDD VDD pfet_03v3 L=0.28u W=3.11u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XTG_PCLK_INV2_NMOS net5 net4 GND GND nfet_03v3 L=0.28u W=3.11u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XTG_PCLK_INV2_PMOS net5 net4 VDD VDD pfet_03v3 L=0.28u W=6.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XTG_PCLK_INV3_NMOS P_CLK net5 GND GND nfet_03v3 L=0.28u W=6.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XTG_PCLK_INV3_PMOS P_CLK net5 VDD VDD pfet_03v3 L=0.28u W=12.44u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XTG_TRANS_NMOS VIN N_CLK VOUT GND nfet_03v3 L=0.28u W=3.11u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=8
XTG_TRANS_PMOS VIN P_CLK VOUT VDD pfet_03v3 L=0.28u W=6.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=8
.ends
.subckt A44_CDAC_UNIT_TRANS_DRIVER VIN CLKS VTOP DCTRL[7] DCTRL[6] DCTRL[5] DCTRL[4] DCTRL[3] DCTRL[2] DCTRL[1] VREFP VDD GND
+ VREFN

*.ipin VIN
*.ipin CLKS
*.iopin VDD
*.iopin GND
*.iopin VREFP
*.iopin VREFN
*.iopin VTOP
*.ipin DCTRL[7],DCTRL[6],DCTRL[5],DCTRL[4],DCTRL[3],DCTRL[2],DCTRL[1]
XC8 VTOP GND cap_mim_2f0_m4m5_noshield c_width=6.855e-6 c_length=6.855e-6 m=18
x2 VREFN VREFP VDD GND VTOP DCTRL_DRV[1] A44_C1_SWITCH
x3 VREFN VREFP VDD GND VTOP DCTRL_DRV[2] A44_C2_SWITCH
x4 VREFN VREFP VDD GND VTOP DCTRL_DRV[3] A44_C4_SWITCH
x5 VREFN VREFP VDD GND VTOP DCTRL_DRV[4] A44_C8_SWITCH
x6 VREFN VREFP VDD GND VTOP DCTRL_DRV[5] A44_C16_SWITCH
x8 VREFN VREFP VDD GND VTOP DCTRL_DRV[7] A44_C64_SWITCH
xsample CLKS VDD GND VTOP VIN A44_SWITCH_TRANS_TG8
x1 VREFN VREFP VDD GND VTOP DCTRL_DRV[6] A44_C32_SWITCH
xdrv DCTRL[1] DCTRL_DRV[1] VDD GND DCTRL[2] DCTRL_DRV[2] DCTRL_DRV[3] DCTRL[3] DCTRL_DRV[4] DCTRL[4] DCTRL_DRV[5] DCTRL[5]
+ DCTRL_DRV[6] DCTRL[6] DCTRL_DRV[7] DCTRL[7] A44_CONVERSION_BUFFER
.ends
